US06972288B1
4-[(3-chloro-4-fluorophenyl)amino]-6-[(3-ethoxycarbonyl-1-oxo-2-propen-1-yl)-amino]-7-cyclopropylmethoxy-quinazoline
A solution of 3.00 g of ethyl 3-chlorocarbonyl-acrylate in 50 ml of tetrahydrofuran is added dropwise to 5.00 g of 6-amino-4-[(3-chloro-4-fluorophenyl)amino]-7-cyclopropylmethoxy-quinazoline and 3.5 ml of diisopropylethylamine in 150 ml of tetrahydrofuran while cooling with an ice bath. The reaction mixture is stirred for a further hour while cooling with an ice bath and then stirred overnight at ambient temperature. Next, the solvent is largely distilled off in the rotary evaporator and the residue is partitioned between water and ethyl acetate. The organic phase is washed with saturated sodium chloride solution, dried over magnesium sulphate and concentrated by evaporation. The brown, oily crude product is stirred with diethylether, the precipitate formed is suction filtered and washed with a little diethylether. Yield: 3.20 g (47% of theory), Rf value: 0.80 (silica gel, ethyl acetate) Mass spectrum (ESI*): m/z=485, 487 [M+]*

reactant | ethyl 3-chlorocarbonyl-acrylate | 3.00 g | ClC(=O)C=CC(=O)OCC | C6H7ClO3
reactant | 6-amino-4-[(3-chloro-4-fluorophenyl)amino]-7-cyclopropylmethoxy-quinazoline | 5.00 g | NC=1C=C2C(=NC=NC2=CC1OCC1CC1)NC1=CC(=C(C=C1)F)Cl | C18H16ClFN4O
reactant | diisopropylethylamine | 3.5 ml | C(C)(C)N(CC)C(C)C | C8H19N
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 150 ml | O1CCCC1 | C4H8O
product | 4-[(3-chloro-4-fluorophenyl)amino]-6-[(3-ethoxycarbonyl-1-oxo-2-propen-1-yl)-amino]-7-cyclopropylmethoxy-quinazoline | ClC=1C=C(C=CC1F)NC1=NC=NC2=CC(=C(C=C12)NC(C=CC(=O)OCC)=O)OCC1CC1 | C24H22ClFN4O4
